US04496572
A solution of 2-methylbenzo[b]thiophene-5-carboxylic acid (17.4 g) in methanol (250 ml) was saturated with hydrogen chloride and then heated under reflux for 30 minutes. The solid which crystallised out on cooling was filtered off and dried to give 2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester (16.7 g), m.p. 97°-98°.

reactant | 2-methylbenzo[b]thiophene-5-carboxylic acid | 17.4 g | CC1=CC2=C(S1)C=CC(=C2)C(=O)O | C10H8O2S
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 250 ml | CO | CH4O
product | 2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester | 16.7 g | COC(=O)C1=CC2=C(SC(=C2)C)C=C1 | C11H10O2S
